US05728370
8-Trimethylsilyl-2,2,6,6-tetramethylbenzo[1,2-d:5,4-d']-bis(1,3)oxathiole
The reaction was performed under an argon atmosphere using deoxygenated solvents. 2,2,6,6-tetramethylbenzo[1,2-d:5,4-d']-bis(1,3)oxathiole (6.0 g, 23.6 mmol) was dissolved in dry THF (120 mL). The mixture was cooled on an ice-bath and n-butyllithium (10.8 mL, 2.5M in hexane) was added dropwise over 10 min. After 15 min, chlorotrimethylsilane (6.0 mL, 47.2 mmol) was added dropwise over 5 min. After another 15 min, the reaction mixture was quenched with dietyl ether/aq. NaHCO3, the aqueous layer was extracted with ether and the combined organic layers were washed with water and dried (Na2SO4). After evaporation and chromatography (silica gel, chloroform) essentially pure product (6.3 g, 92%) could be collected.

reactant | 2,2,6,6-tetramethylbenzo[1,2-d:5,4-d']-bis(1,3)oxathiole | 23.6 mmol, 6.0 g | CC1(OC=2C(S1)=CC=1SC(OC1C2)(C)C)C | C12H14O2S2
reactant | n-butyllithium | 2.5M, 10.8 mL | C(CCC)[Li]
reactant | chlorotrimethylsilane | 47.2 mmol, 6.0 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 8-Trimethylsilyl-2,2,6,6-tetramethylbenzo[1,2-d:5,4-d']-bis(1,3)oxathiole | C[Si](C1=C2C(SC(O2)(C)C)=CC=2SC(OC21)(C)C)(C)C | C15H22O2S2Si
